datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])([H:28])([H:29])[H:30]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:20]([C:19]([H:28])([H:29])[H:30])([C:21]([H:31])([H:32])[H:33])[c:22]1[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]([H:37])[c:27]1[H:38])[H:12])([H:9])([H:10])[H:11],45.8566
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[O:15][O:16]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:12][O:15][O:16],218.78136
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([C:11]([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12](=[C:13]([H:19])[H:20])[H:18])[H:17])[H:5],81.9646
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19]([S:20][H:30])[c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])([H:27])([H:28])[H:29]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([C:18]([H:27])([H:28])[H:29])([S:20][H:30])[c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35],34.3088
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([C:4]1[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:16])[H:17])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([C:4]1([H:12])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:16])[H:17])([H:9])([H:10])[H:11],156.063
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([O:6])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:7])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],106.901
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([S:7][H:11])([H:8])([H:9])[H:10]>>[C:0](=[C:1]([S:2][H:5])[H:8])([H:3])[H:4].[C:6]([S:7][H:11])([H:9])[H:10],-2.9288
[C:0](#[C:1][C:2]([C:3]([H:15])([H:16])[H:17])[C:4](=[C:5]([C:6]([C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])=[C:10]([C:11]([H:25])([H:26])[H:27])[C:12](=[C:13]([H:29])[H:30])[H:28])([H:20])[H:21])[H:19])[H:18])[H:14]>>[C:0](#[C:1][C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])=[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]([C:8](=[C:9]([H:23])[H:24])[H:22])[C:10]1([C:11]([H:25])([H:26])[H:27])[C:12](=[C:13]([H:29])[H:30])[H:28])[H:14],120.457
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9](=[C:8]([H:14])[H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20],122.173
[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],41.0032
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15])[H:5],52.1745
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[H:12])[H:11])[H:10])[H:9])([H:7])[H:8],146.44
[C:0](=[C:1]=[C:2]([C:3]1([H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]1=[C:9]([H:18])[H:19])[H:12])([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:12])[C:3]2([H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]2[C:9]1([H:18])[H:19])([H:10])[H:11],108.106192
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])([C:13]([O:14][H:23])([H:21])[H:22])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[O:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:10]([C:11]([C:12]([H:18])([H:19])[H:20])([C:13]([O:14][H:23])([H:21])[H:22])[H:17])([H:15])[H:16],14.18376
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])[H:12])([H:10])[H:11]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:8]([C:7](=[C:6]([H:10])[H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],48.8691
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([S:8][H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[S:3])[H:9])[H:6])([H:4])[H:5].[C:7]([S:8][H:12])([H:10])[H:11],63.5968
